US04284631
Ethyl 2-(2-aminothiazol-4-yl)-2-(4-fluorobenzyloxyimino)-acetate (syn isomer, 25.5 g.), 1-methylimidazole (1.3 g.), 1 N sodium hydroxide solution (118.3 ml.), methanol (250 ml.) and tetrahydrofuran (200 ml.) were treated in similar manner to that of Example p - (4) to give 2-(2-aminothiazol-4-yl)-2-(4-fluorobenzyloxyimino)acetic acid (syn isomer, 22.11 g.).

reactant | Ethyl 2-(2-aminothiazol-4-yl)-2-(4-fluorobenzyloxyimino)-acetate | 25.5 g | NC=1SC=C(N1)C(C(=O)OCC)=NOCC1=CC=C(C=C1)F | C14H14FN3O3S
reactant | 1-methylimidazole | 1.3 g | CN1C=NC=C1 | C4H6N2
reactant | sodium hydroxide | 1 N, 118.3 ml | [OH-].[Na+]
reactant | methanol | 250 ml | CO | CH4O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2-(2-aminothiazol-4-yl)-2-(4-fluorobenzyloxyimino)acetic acid | 22.11 g | NC=1SC=C(N1)C(C(=O)O)=NOCC1=CC=C(C=C1)F | C12H10FN3O3S
